US06015818
To a solution of 3-[3-[N-[(E)-3-(6-acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-aminoaniline (735 mg) in acetic acid (7.4 ml) was added tetramethyl orthocarbonate (215 mg) at ambient temperature, and the mixture was stirred for 8 hours at the same temperature. The solvent was removed, and the residue was dissolved in chloroform. The solution was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (chloroform-methanol) to give 4-[3-[N-[(E)-3-(6-acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1H-benzimidazole (654 mg).

reactant | 3-[3-[N-[(E)-3-(6-acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-aminoaniline | 735 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC=2C(=C(N)C=CC2)N)C(=CC1)Cl)Cl | C26H26Cl2N6O4
reactant | tetramethyl orthocarbonate | 215 mg | C(OC)(OC)(OC)OC | C5H12O4
solvent | acetic acid | 7.4 ml | C(C)(=O)O | C2H4O2
product | 4-[3-[N-[(E)-3-(6-acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1H-benzimidazole | 654 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3NC(=NC32)OC)C(=CC1)Cl)Cl | C28H26Cl2N6O5
